Sheet1
*SPICE Netlist generated by Advanced Sim server on 2017-03-18 1:34:00 PM

*Schematic Netlist:
R1 Net?_2 VCC 220
V? VCC 0 3.9

.SAVE 0 Net?_2 VCC V?#branch @V?[z]

*PLOT TRAN -1 1 A=Net?_2 A=V?#branch A=VCC
*PLOT OP -1 1 A=Net?_2 A=V?#branch A=VCC

*Selected Circuit Analyses:
.TRAN 1E-7 5E-5 0 2E-7
.OP

.END
